US07989462B2
(3,4-Dimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine
The title compound was prepared from (3,4-dimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine (288 mg, 0.98 mmol), methyl iodide (0.094 ml, 1.47 mmol), sodium hydride (60 mg, 1.5 mmol) in DMF similar to example 21 to give 70 mg (23%) of off white solids. 1H NMR (CDCl3): 7.75-7.72 (m, 1H), 7.56-7.50 (m, 1H), 7.05-6.94 (m, 2H), 6.85 (d, J=7.5 Hz, 1H), 6.76-6.71 (m, 2H), 3.92 (s, 3H)), 3.78 (s, 3H), 3.61 (s, 3H), 2.73 (s, 3H).

reactant | (3,4-dimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 0.98 mmol, 288 mg | COC=1C=C(C=CC1OC)NC1=NC(=NC2=CC=CC=C12)C | C17H17N3O2
reactant | methyl iodide | 1.47 mmol, 0.094 ml | CI | CH3I
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (3,4-Dimethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methylamine | COC=1C=C(C=CC1OC)N(C)C1=NC(=NC2=CC=CC=C12)C | C18H19N3O2
